US08283378B2
1.05 ml (10 mmol) of cyclohexanone, 5.5 ml (101 mmol) of nitromethane, 2.1 ml (21 mmol) of piperidine are added to a solution of 5 ml (42 mmol) of benzylmercaptan in 20 ml of acetonitrile. The solution is refluxed for 4 h. At room temperature, the mixture is evaporated and the residue is chromatographed on silica gel (heptane then heptane/ethyl acetate, 50/50, v/v). 600 mg of (1-nitromethyl-cyclohexylsulfanylmethyl)-benzene is obtained in the form of a colorless oil. (Yield=22%).

reactant | cyclohexanone | 10 mmol, 1.05 ml | C1(CCCCC1)=O | C6H10O
reactant | nitromethane | 101 mmol, 5.5 ml | [N+](=O)([O-])C | CH3NO2
reactant | piperidine | 21 mmol, 2.1 ml | N1CCCCC1 | C5H11N
reactant | benzylmercaptan | 42 mmol, 5 ml | C(C1=CC=CC=C1)S | C7H8S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (1-nitromethyl-cyclohexylsulfanylmethyl)-benzene | 600 mg, Yield=22% | [N+](=O)([O-])CC(SC1CCCCC1)C1=CC=CC=C1 | C14H19NO2S
